US08461181B2
To a mixture of 0.36 g of 1-propanol and 6 ml of DMF was added 0.24 g of 60% sodium hydride (oily) under ice cool, and the mixture was stirred for 10 minutes. 2-(3-fluoropyridin-4-yl)-1-methyl-5-trifluoromethyl-1H-benzimidazole (0.35 g) was added, then, the mixture was heated up to room temperature and further stirred for 1 hour. A saturated ammonium chloride aqueous solution was poured, and the mixture was extracted three times with ethyl acetate. The combined organic layers were dried over magnesium sulfate, then, concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.36 g of 1-methyl-2-(3-propoxypyridin-4-yl)-5-trifluoromethyl-1H-benzimidazole (hereinafter, referred to as present active compound 10).

reactant | 1-propanol | 0.36 g | C(CC)O | C3H8O
reactant | sodium hydride | 0.24 g | [H-].[Na+]
reactant | 2-(3-fluoropyridin-4-yl)-1-methyl-5-trifluoromethyl-1H-benzimidazole | 0.35 g | FC=1C=NC=CC1C1=NC2=C(N1C)C=CC(=C2)C(F)(F)F | C14H9F4N3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 1-methyl-2-(3-propoxypyridin-4-yl)-5-trifluoromethyl-1H-benzimidazole | 0.36 g | CN1C(=NC2=C1C=CC(=C2)C(F)(F)F)C2=C(C=NC=C2)OCCC | C17H16F3N3O
